2130-03-02 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Remained asymptomatic
   -S/p 10mg x1
   Allergies:
   Morphine
   Pruritis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-3-1**] 08:26 PM
   Ambisome - [**2130-3-1**] 08:26 PM
   Cefipime - [**2130-3-2**] 01:55 AM
   Bactrim (SMX/TMP) - [**2130-3-2**] 01:55 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-2**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 108 (83 - 119) bpm
   BP: 121/71(80) {112/61(77) - 122/75(85)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                    550 mL
                                                                    600 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    450 mL
                                                                    600 mL
   Blood products:
   Total out:
                                                                  1,300 mL
                                                                  1,450 mL
   Urine:
                                                                  1,300 mL
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                   -850 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   CV: RR, no murmurs, no JVD; Pulm: +bl crackles up to mid lung fields;
   Abd: soft NTND
   Labs / Radiology
   39 K/uL
   9.4 g/dL
   104 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   12 mg/dL
   101 mEq/L
   140 mEq/L
   27.4 %
   6.0 K/uL
        [image002.jpg]
                             [**2130-3-1**]  05:22 PM
   WBC
   6.0
   Hct
   27.4
   Plt
   39
   Cr
   0.5
   Glucose
   104
   Other labs: Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
   57 year old woman with relapsed CLL, fungal PNA and [**Hospital 13192**] transferred to
   [**Hospital Unit Name 1**] with hypoxic respiratory failure
   #. Hypoxic Respiratory Failure: Likely secondary to progression of
   infectious process, currently on broad spectrum antibiotics and
   antifungals, with some probable component of volume overload.
   Currently remains on high flow oxygen, will continue to treat
   infection, diurese, and wean to nasal cannula.  Less likely PE, given
   low functional plt counts.
   - F/u ID recommendations
   - continue Ambisome for fungal pneumonia, bactrim, Vancomycin and
   cefepime for bacterial HAP
   - continue albuterol and ipratropium nebs
   - follow up galactomannan (serum and BAL)
   - follow up final blood cx and BAL cx
   - transfuse for PLT<20K or active bleed
   - lasix 10mg x1, goal net even 2L
   - f/u final TTE
   #. Thrombocytopenia: patient with persistent thrombocytopenia requiring
   frequent platelet transfusions
   --continue to monitor, transfuse for platelets<10 or signs of bleeding
   #) Neutropenia: Pt has had persistent neutropenia requiring multiple
   neupagen injections
   - neutropenic precautions
   - continue neupogen
   #) Anemia: Drop in hct today, with h/o AIHA
   -- DIC/hemolysis labs
   -- D/w heme re: transfusion
   #) Refractory CLL: Patient has had a prior allo SCT with relapse of her
   disease, most recently treated with bendamustine and rituximab [**12-28**].
   Further treatment on hold given pulmonary processes and infection
   - continue budesonide for GI GVHD, continue acyclovir for prophylaxis
   #) GERD: Continue home omeprazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-3-1**] 04:00 PM
   18 Gauge - [**2130-3-1**] 05:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-03-03 06:56:00 Physician Resident Progress Note
Chief Complaint: - Onc recs: nothing new.
   - Pt did not tolerate weaning to nasal cannula and face tent.
   - Sputum negative for PCP.
   [**Name Initial (NameIs) **] Cultures nothing new.
   - Echo essentially normal with EF 50-55%.
   - Transfused 1unit RBC.
   - ID recs: nothing new.
   - Ordered for vanc trough.
   - Hemolysis labs negative.
   - Pt negative 1.5L as of 18:51.
   - difficulty with blood draws
   24 Hour Events:
   Allergies:
   Morphine
   Pruritis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-3-2**] 08:00 PM
   Ambisome - [**2130-3-2**] 10:00 PM
   Bactrim (SMX/TMP) - [**2130-3-3**] 02:00 AM
   Cefipime - [**2130-3-3**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-3-2**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-3**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 91 (77 - 115) bpm
   BP: 112/66(77) {97/52(63) - 128/82(89)} mmHg
   RR: 21 (13 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,235 mL
                                                                    669 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  2,645 mL
                                                                    669 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  4,600 mL
                                                                  1,250 mL
   Urine:
                                                                  4,600 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,366 mL
                                                                   -581 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   22 K/uL
   8.1 g/dL
   77 mg/dL
   0.3 mg/dL
   26 mEq/L
   3.1 mEq/L
   11 mg/dL
   107 mEq/L
   141 mEq/L
   23.6 %
   5.3 K/uL
        [image002.jpg]
                             [**2130-3-1**]  05:22 PM
                             [**2130-3-2**]  07:30 AM
   WBC
   6.0
   5.3
   Hct
   27.4
   23.6
   Plt
   39
   22
   Cr
   0.5
   0.3
   Glucose
   104
   77
   Other labs: PT / PTT / INR:12.9/37.4/1.1, ALT / AST:19/13, Alk Phos / T
   Bili:211/0.5, Differential-Neuts:6.0 %, Band:0.0 %, Lymph:93.0 %,
   Mono:0.0 %, Eos:0.0 %, D-dimer:432 ng/mL, Fibrinogen:642 mg/dL,
   Albumin:2.1 g/dL, LDH:243 IU/L, Ca++:6.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
 PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
   57 year old woman with relapsed CLL, fungal PNA and [**Hospital 13192**] transferred to
   [**Hospital Unit Name 1**] with hypoxic respiratory failure
   #. Hypoxic Respiratory Failure: Likely secondary to progression of
   infectious process, currently on broad spectrum antibiotics and
   antifungals, with some probable component of volume overload.
   Currently remains on high flow oxygen, will continue to treat
   infection, diurese, and wean to nasal cannula.  Less likely PE, given
   low functional plt counts.
   - F/u ID recommendations
   - continue Ambisome for fungal pneumonia, bactrim, Vancomycin and
   cefepime for bacterial HAP
   - continue albuterol and ipratropium nebs
   - follow up galactomannan (serum and BAL)
   - follow up final blood cx and BAL cx
   - transfuse for PLT<20K or active bleed
   - lasix 10mg x1, goal net even 2L
   - f/u final TTE
   #. Thrombocytopenia: patient with persistent thrombocytopenia requiring
   frequent platelet transfusions
   --continue to monitor, transfuse for platelets<10 or signs of bleeding
   #) Neutropenia: Pt has had persistent neutropenia requiring multiple
   neupagen injections
   - neutropenic precautions
   - continue neupogen
   #) Anemia: Drop in hct today, with h/o AIHA
   -- DIC/hemolysis labs
   -- D/w heme re: transfusion
   #) Refractory CLL: Patient has had a prior allo SCT with relapse of her
   disease, most recently treated with bendamustine and rituximab [**12-28**].
   Further treatment on hold given pulmonary processes and infection
   - continue budesonide for GI GVHD, continue acyclovir for prophylaxis
   #) GERD: Continue home omeprazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-3-1**] 04:00 PM
   18 Gauge - [**2130-3-1**] 05:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-3-1**] 04:00 PM
   18 Gauge - [**2130-3-1**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-03-04 07:53:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
 ULTRASOUND - At [**2130-3-3**] 02:04 PM
   LENIS
 PICC LINE - START [**2130-3-3**] 05:52 PM
   [**3-3**]
   - LENIs prelim negative
   - From high flow to shovel mask
   - 10mg iv lasix
   - Got platelets prior to picc line
   - ID recs d/c vanc (no evidence of gm pos infxn) and acyclovir (no h/o
   HSV/zoster)
   History obtained from Patient
   Allergies:
   History obtained from PatientMorphine
   Pruritis;
   Last dose of Antibiotics:
   Vancomycin - [**2130-3-3**] 08:30 PM
   Ambisome - [**2130-3-3**] 10:00 PM
   Cefipime - [**2130-3-4**] 01:47 AM
   Bactrim (SMX/TMP) - [**2130-3-4**] 02:00 AM
   Acyclovir - [**2130-3-4**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-4**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 92 (92 - 116) bpm
   BP: 103/66(75) {102/57(69) - 130/74(83)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,251 mL
                                                                    728 mL
   PO:
                                                                    480 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,440 mL
                                                                    678 mL
   Blood products:
                                                                    331 mL
   Total out:
                                                                  2,800 mL
                                                                    900 mL
   Urine:
                                                                  2,800 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    451 mL
                                                                   -172 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   22 K/uL
   10.0 g/dL
   149 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.1 mEq/L
   13 mg/dL
   94 mEq/L
   130 mEq/L
   29.5 %
   5.0 K/uL
        [image002.jpg]
                             [**2130-3-1**]  05:22 PM
                             [**2130-3-2**]  07:30 AM
                             [**2130-3-3**]  05:59 AM
                             [**2130-3-3**]  04:59 PM
                             [**2130-3-4**]  03:42 AM
   WBC
   6.0
   5.3
   6.8
   7.2
   5.0
   Hct
   27.4
   23.6
   31.5
   29.6
   29.5
   Plt
   39
   22
   16
   31
   22
   Cr
   0.5
   0.3
   0.4
   0.5
   0.5
   Glucose
   104
   77
   88
   111
   149
   Other labs: PT / PTT / INR:13.0/34.2/1.1, ALT / AST:19/13, Alk Phos / T
   Bili:211/0.5, Differential-Neuts:8.0 %, Band:0.0 %, Lymph:85.0 %,
   Mono:0.0 %, Eos:0.0 %, D-dimer:432 ng/mL, Fibrinogen:642 mg/dL,
   Albumin:2.1 g/dL, LDH:243 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:4.8
   mg/dL
   Imaging: CXR AP [**2130-3-3**] (Prelim):
   R PICC tiup lower SVC Multifoc opac persist c/w multifocal pna worse at
   L
   base GWlms
   Microbiology: [**2130-2-28**] 2:39 pm SPUTUM  Source: Induced.
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
   [**2130-3-1**]): NEGATIVE for Pneumocystis jirovecii (carinii)..
   Assessment and Plan
 PNEUMONIA, OTHER
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-3-1**] 04:00 PM
   18 Gauge - [**2130-3-1**] 05:00 PM
   PICC Line - [**2130-3-3**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   57 year old woman with relapsed CLL, fungal PNA and [**Hospital 13192**] transferred to
   [**Hospital Unit Name 1**] with hypoxic respiratory failure
   #. Hypoxic Respiratory Failure: Initial concern for progressive
   infectious process w/ element of volume overload.  Some interval
   improvement on L after diuresis, though R lung fields with more patchy
   consolidation.  In a patient with active malignancy and persistant
   hypoxia, embolic event is concerning.  While echo shows no evidence of
   RH strain, while further evaluate w/ LENIs.   Will continue w/ current
   abx, while she is not covered for anearobic coverage, she has not had
   witness aspiration episodes and does not have poor dentition.
   - continue Ambisome, bactrim, Vancomycin and cefepime
   - continue albuterol and ipratropium nebs
   - follow up final blood cx and BAL cx
   - LENIs
   - lasix 10mg x1
   - Wean to nasal cannula
   #. Thrombocytopenia: patient with persistent thrombocytopenia requiring
   frequent platelet transfusions
   --continue to monitor, transfuse for platelets<10 or signs of bleeding
   #) Neutropenia: Pt has had persistent neutropenia requiring multiple
   neupagen injections
   - neutropenic precautions
   - continue neupogen
   #) Anemia: Stable, w/ neg DIC labs. s/p 1 upRBC
   #) Refractory CLL: Patient has had a prior allo SCT with relapse of her
   disease, most recently treated with bendamustine and rituximab [**12-28**].
   Further treatment on hold given pulmonary processes and infection
   - continue budesonide for GI GVHD, continue acyclovir for prophylaxis
   #) GERD: Continue home omeprazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-3-1**] 04:00 PM
   18 Gauge - [**2130-3-1**] 05:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 57F CLL s/p BMT / relapse admitted with
   respiratory distress / hypoxemia in the setting of viral / fungal /
   polymicrobial pneumonia. Unable to wean oxygen, clinically stable
   otherwise. Echo normal.
   Exam notable for Tm 98.2 BP 112/60 HR 107 RR 22 with sat 99 on 0.5
   HFFM. WD woman, NAD. Dry crackles, [**Month (only) **] at bases. RRR s1s2. Soft +BS. 2+
   edema. Labs notable for WBC 7K, HCT 32, K+ 3.8, Cr 0.4.
   Agree with plan to manage respiratory distress with therapy directed at
   viral / fungal / bacterial pneumonia with ambisome, bactrim, vanco, and
   cefepime s/p pavilizumab, as well as diuresis for component of volume
   overload; will try to wean oxygen. Will check LENIs to r/o PE, though
   this seems unlikely. Once LENIs complete, will mobilize OOB and ADAT.
   Will f/u all cx results to target abx therapy, ID following. BMT - off
   immunosupression, continue GVH rx with PO budesonide, pentamidine and
   acyclovir
 care d/w BMT attending directly. For neutropenia - continue
   GCSF; for thrombocytopenia - transfuse if <10 or bleeding. Will assess
   for PICC given poor access and need for IV abx. Remainder of plan as
   outlined above.
   Patient is critically ill
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 453**] [**Last Name (NamePattern1) 775**], MD
   on:[**2130-3-3**] 04:50 PM ------

2130-03-04 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 57 year old woman with relapsed CLL, fungal, polymicrobial, and
   RSV PNA, now with persistent hypoxic respiratory failure
   24 Hour Events:
   LENIs done, prelim read neg
   PICC line placed
   Received 10 mg of IV lasix
   ID recommended stopping vanco and acyclovir
   History obtained from Patient
   Allergies:
   Morphine (Pruritis)
   Last dose of Antibiotics:
   Vancomycin - [**2130-3-3**] 08:30 PM
   Ambisome - [**2130-3-3**] 10:00 PM
   Cefipime - [**2130-3-4**] 01:47 AM
   Bactrim (SMX/TMP) - [**2130-3-4**] 02:00 AM
   Acyclovir - [**2130-3-4**] 06:00 AM
   Other medications:
   Folate
   Budesonide 3 mg PO Q8
   Acyclovir PO Q8
   Omeprazole 20 daily
   Mag oxide
   Cefepime
   Filgastrim 480 Q24
   Vitamin D 400 daily
   CaCarbonate
   Ipratropium nebs
   Vanco 1250 Q12
   Bactrim 300 IV Q8
   Ambisome 300 IV Q24
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: more SOB today, feels short of breath with any
   movement
   Flowsheet Data as of  [**2130-3-4**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 92 (92 - 114) bpm
   BP: 103/66(75) {102/57(69) - 130/74(83)} mmHg
   RR: 14 (14 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,251 mL
                                                                    730 mL
   PO:
                                                                    480 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,440 mL
                                                                    680 mL
   Blood products:
                                                                    331 mL
   Total out:
                                                                  2,800 mL
                                                                    900 mL
   Urine:
                                                                  2,800 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    451 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Face tent 50%
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Gen: awake, alert
   Neck: supple, JVP 9cm
   Chest: diffuse insp rales posteriorly with bronchial breath sounds and
   focal exp wheeze over LLL
   CV: RRR, no murmurs
   Abd: soft NT/ND
   Extr: warm, 1 + LE edema
   Labs / Radiology
   10.0 g/dL
   22 K/uL
   149 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.1 mEq/L
   13 mg/dL
   94 mEq/L
   130 mEq/L
   29.5 %
   5.0 K/uL
        [image002.jpg]
                             [**2130-3-1**]  05:22 PM
                             [**2130-3-2**]  07:30 AM
                             [**2130-3-3**]  05:59 AM
                             [**2130-3-3**]  04:59 PM
                             [**2130-3-4**]  03:42 AM
   WBC
   6.0
   5.3
   6.8
   7.2
   5.0
   Hct
   27.4
   23.6
   31.5
   29.6
   29.5
   Plt
   39
   22
   16
   31
   22
   Cr
   0.5
   0.3
   0.4
   0.5
   0.5
   Glucose
   104
   77
   88
   111
   149
   Other labs: PT / PTT / INR:13.0/34.2/1.1, ALT / AST:19/13, Alk Phos / T
   Bili:211/0.5, Differential-Neuts:8.0 %, Band:0.0 %, Lymph:85.0 %,
   Mono:0.0 %, Eos:0.0 %, D-dimer:432 ng/mL, Fibrinogen:642 mg/dL,
   Albumin:2.1 g/dL, LDH:243 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:4.8
   mg/dL
   Micro:
   Blood cultures neg, BAL from [**2-24**] with RSV and stenotrophomonas, PCP neg
   on Sputum [**2-28**]
   CXR [**3-3**] pm: worsening aeration of L lung field, ?layering effusion,
   slightly improved R sided diffuse opacities
   Assessment and Plan
   57 year old woman with relapsed CLL, fungal, polymicrobial, and RSV
   PNA, now with persistent hypoxic respiratory failure
   1. Hypoxic Respiratory Failure: ? 2.2 progressive infectious process w/
   element of volume overload.  TTE with no evidence of RH strain, LENIs
   neg for clot.   ID recommended stopping vanco, but pt reports feeling
   worse today with increasing SOB, so will continue.
   - continue Ambisome, bactrim, Vancomycin and cefepime
   - repeat CXR today
   - consider repeating chest CT re: ?effusion
   - diurese: lasix 20 today
   - continue albuterol and ipratropium nebs
   - follow up final blood cx and BAL cx
   2. Thrombocytopenia: patient with persistent thrombocytopenia requiring
   frequent platelet transfusions. No signs of active bleeding.
   - continue to monitor, transfuse for platelets<10 or signs of bleeding
   3 Neutropenia: Pt has had persistent neutropenia requiring multiple
   neupogen injections.
   - neutropenic precautions
   - continue neupogen
   4. Anemia: Stable x several days, w/ neg DIC labs. s/p 1 upRBC
   - daily Hcts
   5.  Refractory CLL: Patient has had a prior allo SCT with relapse of
   her disease, most recently treated with bendamustine and rituximab
   [**12-28**]. Further treatment on hold given pulmonary processes and
   infection
   - continue budesonide for GI GVHD, d/c acyclovir as recommended by ID
   6. GERD: Continue home omeprazole
   ICU Care
   Nutrition: neutropenic diet
   Glycemic Control:
   Lines:
   PICC Line - [**2130-3-3**] 05:52 PM
   Prophylaxis:
   DVT: boots, no heparin given thrombocytopenia
   Stress ulcer: PPI
   Communication:  with patient and family
   Code status: Full code
   Disposition: ICU
   Total time spent:  35 min CCT

2130-03-05 07:02:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
   -Pt desated to high 80s upon moving. Exam unchanged pt reveals she
   feels very anxious. Resolved with increasing face shield FiO2 from 50
   to 80% then weaned back down again with no further episodes. Ativan
   resolved her anxiety
   -BMT was worried
   -CXR looked unchanged and pt felt worse, added azithromycin to cover
   atypicals
   -Had another desat to mid 80s on 50% FiO2 face shield, increased to 80%
   and still high 80s low 90s.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsMorphine
   Pruritis;
   Last dose of Antibiotics:
   Acyclovir - [**2130-3-4**] 06:00 AM
   Vancomycin - [**2130-3-4**] 08:00 PM
   Ambisome - [**2130-3-4**] 08:00 PM
   Cefipime - [**2130-3-5**] 02:00 AM
   Bactrim (SMX/TMP) - [**2130-3-5**] 02:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-3-4**] 02:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2130-3-5**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 119 (96 - 135) bpm
   BP: 112/59(71) {101/54(66) - 133/84(89)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,653 mL
                                                                    720 mL
   PO:
                                                                    660 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,790 mL
                                                                    670 mL
   Blood products:
                                                                    203 mL
   Total out:
                                                                  3,475 mL
                                                                  1,550 mL
   Urine:
                                                                  3,475 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    178 mL
                                                                   -831 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   GEN: NAD, pleasant elderly woman significant ecchymosis on upper/lower
   extremities, scleral hemorrhage alert/oriented
   CV: RRR, no RMG
   PULM: +Rhales to mid lung field,
   ABD: Soft, NTND, +BS
   EXT: No edema
   Labs / Radiology
   17 K/uL
   9.9 g/dL
   103 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   15 mg/dL
   97 mEq/L
   135 mEq/L
   28.4 %
   5.3 K/uL
        [image002.jpg]
                             [**2130-3-1**]  05:22 PM
                             [**2130-3-2**]  07:30 AM
                             [**2130-3-3**]  05:59 AM
                             [**2130-3-3**]  04:59 PM
                             [**2130-3-4**]  03:42 AM
                             [**2130-3-4**]  05:00 PM
                             [**2130-3-5**]  03:40 AM
   WBC
   6.0
   5.3
   6.8
   7.2
   5.0
   5.3
   Hct
   27.4
   23.6
   31.5
   29.6
   29.5
   28.4
   Plt
   39
   22
   16
   31
   22
   13
   17
   Cr
   0.5
   0.3
   0.4
   0.5
   0.5
   0.5
   0.5
   Glucose
   104
   77
   88
   111
   149
   103
   Other labs: Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:5.0 mg/dL
   Microbiology: Stool negative for cdiff
   PCP negative
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, OTHER
 PANCYTOPENIA
 LEUKEMIA, CHRONIC (CML, CLL, OTHER; CANCER, MALIGNANT NEOPLASM)
 IMPAIRED SKIN INTEGRITY
   57 year old woman with relapsed CLL, fungal PNA and [**Hospital 13192**] transferred to
   [**Hospital Unit Name 1**] with hypoxic respiratory failure
   #. Hypoxic Respiratory Failure: progressive infectious process w/
   element of volume overload.  In a patient with active malignancy and
   persistant hypoxia, embolic event is concerning. LENI
s negative and
   echo negative for R-sided strain, therefore low likelihood for PE
   although not ruled out. However, if CTA confirms PE, would not alter
   management in this severely thrombocytopenic patient.  Will add
   azithromycin as she is not improving and not covered for atypicals.
   While she is not covered for anearobic coverage, she has not had
   witness aspiration episodes and does not have poor dentition. Pt not
   better and BMT hesitant to stop vancomycin. Will intensify diuresis
   dosing.
   - Add azithromycin 500mg PO Q24H
   - continue Ambisome, bactrim, Vancomycin and cefepime
   - continue albuterol and ipratropium nebs
   - follow up final blood cx and BAL cx
   - lasix 20mg IV x1
   - Wean to nasal cannula
   #. Thrombocytopenia: patient with persistent thrombocytopenia [**2-21**] chemo
   requiring frequent platelet transfusions
   --continue to monitor, transfuse for platelets<10 or signs of bleeding
   #) Neutropenia: Pt has had persistent neutropenia requiring multiple
   neupagen injections
   - neutropenic precautions
   - continue neupogen
   #) Anemia: Stable, w/ neg DIC labs. s/p 1 upRBC
   #) Refractory CLL: Patient has had a prior allo SCT with relapse of her
   disease, most recently treated with bendamustine and rituximab [**12-28**].
   Further treatment on hold given pulmonary processes and infection
   - continue budesonide for GI GVHD,
   - hold acyclovir for prophylaxis as pt low risk
   #) GERD: Continue home omeprazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-3-1**] 04:00 PM
   18 Gauge - [**2130-3-1**] 05:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2130-03-05 07:50:00 Physician Attending Progress Note
Chief Complaint:  resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Azithro added
   Received lasix with good UOP, still net positive
   c. diff neg
                                  History obtained from Patient
   Allergies:
   Morphine
   Pruritis;
   Last dose of Antibiotics:
   Acyclovir - [**2130-3-4**] 06:00 AM
   Vancomycin - [**2130-3-4**] 08:00 PM
   Ambisome - [**2130-3-4**] 08:00 PM
   Cefipime - [**2130-3-5**] 02:00 AM
   Bactrim (SMX/TMP) - [**2130-3-5**] 02:30 AM
   Other ICU medications:
   Furosemide (Lasix) - [**2130-3-4**] 02:45 PM
   Other medications:
   Folate
   Budesonide
   Omeprazole
   Mag Oxide
   Azithro PO
   Calcium carbonate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems: feels
the same
 from yesterday, no CP, still SOB
   with movement
   Flowsheet Data as of  [**2130-3-5**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 119 (96 - 135) bpm
   BP: 112/59(71) {101/54(66) - 133/84(89)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,653 mL
                                                                    728 mL
   PO:
                                                                    660 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,790 mL
                                                                    678 mL
   Blood products:
                                                                    203 mL
   Total out:
                                                                  3,475 mL
                                                                  1,550 mL
   Urine:
                                                                  3,475 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    178 mL
                                                                   -822 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   Gen: sitting up in bed, NAD
   Chest: rales throughout, egophony and exp wheezes at L base
   CV: tachy, regular, no m/r
   Abd: soft/NT/ND
   Extr: warm, no edema
   Labs / Radiology
   9.9 g/dL
   17 K/uL
   103 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   15 mg/dL
   97 mEq/L
   135 mEq/L
   28.4 %
   5.3 K/uL
        [image002.jpg]
                             [**2130-3-1**]  05:22 PM
                             [**2130-3-2**]  07:30 AM
                             [**2130-3-3**]  05:59 AM
                             [**2130-3-3**]  04:59 PM
                             [**2130-3-4**]  03:42 AM
                             [**2130-3-4**]  05:00 PM
                             [**2130-3-5**]  03:40 AM
   WBC
   6.0
   5.3
   6.8
   7.2
   5.0
   5.3
   Hct
   27.4
   23.6
   31.5
   29.6
   29.5
   28.4
   Plt
   39
   22
   16
   31
   22
   13
   17
   Cr
   0.5
   0.3
   0.4
   0.5
   0.5
   0.5
   0.5
   Glucose
   104
   77
   88
   111
   149
   103
   Other labs: PT / PTT / INR:13.0/34.2/1.1, ALT / AST:19/13, Alk Phos / T
   Bili:211/0.5, Differential-Neuts:4.0 %, Band:0.0 %, Lymph:96.0 %,
   Mono:0.0 %, Eos:0.0 %, D-dimer:432 ng/mL, Fibrinogen:642 mg/dL,
   Albumin:2.1 g/dL, LDH:243 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:5.0
   mg/dL
   Micro: c. diff neg, no new sputum/blood growth
   Studies: CXR [**3-4**]: no sign change in bilateral opacities
   Assessment and Plan
   57 year old woman with relapsed CLL, fungal, polymicrobial, and RSV
   PNA, now with persistent hypoxic respiratory failure
   1. Hypoxic Respiratory Failure:
   likely [**2-21**] persistent infectious process w/ ? element of volume
   overload.  TTE with no evidence of RH strain, LENIs neg for clot.   ID
   recommended stopping vanco, but continued given lack of clinical
   improvement and persistent neutropenia.  Azithro added yesterday.
   Repeat CXR yest stable.
   - continue Ambisome, bactrim, Vancomycin, cefepime, azithro
   - continue albuterol and ipratropium nebs
   - resend sputum culture
   2. Thrombocytopenia:
   patient with persistent thrombocytopenia requiring frequent platelet
   transfusions. No signs of active bleeding.
   - continue to monitor, transfuse for platelets<10 or signs of bleeding
   3 Neutropenia:
   Pt has had persistent neutropenia requiring multiple neupogen
   injections.
   - neutropenic precautions
   - continue neupogen
   4. Anemia:
   Stable x several days, w/ neg DIC labs. s/p 1 upRBC
   - daily Hcts
   5.  Refractory CLL:
   Patient has had a prior allo SCT with relapse of her disease, most
   recently treated with bendamustine and rituximab [**12-28**]. Further
   treatment on hold given pulmonary processes and infection
   - continue budesonide for GI GVHD, d/c acyclovir as recommended by ID
   6. GERD:
   Continue home omeprazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2130-3-3**] 05:52 PM
   Prophylaxis:
   DVT:  plts 17 so boots and heparin held
   Stress ulcer: PPI
   Communication:  with patient
   Code status: Full code
   Disposition : ICU
   Patient is critically ill.
   Total time spent: 35 min

2130-03-06 07:04:00 Physician Resident Progress Note
Chief Complaint: PNA, hypoxia
   24 Hour Events:
   - continued to desat
   - tachy to 150 at times, sinus, seemed to correlated with o2 sats
   - net negative over a liter
   - discussing code status with family
   - ID recommends discontinuing acyclovir, vanc, azithro, consider
   holding cefepime, continue bactrim but change to PO, continue ambisone
   - Onc agrees that okay to stop azithro, defers to us re cefepime
   - bactrim changed to PO
   - pharm says that if vanc changed back to 1g, can be reduced to 100cc
   volume
   Feels no better or worse than yesterday
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsMorphine
   Pruritis;
   Last dose of Antibiotics:
   Acyclovir - [**2130-3-4**] 06:00 AM
   Bactrim (SMX/TMP) - [**2130-3-5**] 06:00 PM
   Vancomycin - [**2130-3-5**] 08:00 PM
   Ambisome - [**2130-3-5**] 08:00 PM
   Cefipime - [**2130-3-6**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2130-3-5**] 06:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Respiratory: Cough, Dyspnea
   Flowsheet Data as of  [**2130-3-6**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.9
C (96.7
   HR: 122 (113 - 154) bpm
   BP: 96/61(67) {96/59(66) - 124/77(86)} mmHg
   RR: 15 (15 - 32) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,542 mL
                                                                    240 mL
   PO:
                                                                    550 mL
             TF:
   IVF:
                                                                  2,992 mL
                                                                    240 mL
   Blood products:
   Total out:
                                                                  3,550 mL
                                                                    300 mL
   Urine:
                                                                  3,550 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -8 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bottom [**2-22**] of lungs
   bilaterallly, Wheezes : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, purpura
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Non -purposeful, Tone: Not assessed
   Labs / Radiology
   10 K/uL
   9.8 g/dL
   98 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   15 mg/dL
   94 mEq/L
   131 mEq/L
   28.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2130-3-1**]  05:22 PM
                             [**2130-3-2**]  07:30 AM
                             [**2130-3-3**]  05:59 AM
                             [**2130-3-3**]  04:59 PM
                             [**2130-3-4**]  03:42 AM
                             [**2130-3-4**]  05:00 PM
                             [**2130-3-5**]  03:40 AM
                             [**2130-3-6**]  04:35 AM
   WBC
   6.0
   5.3
   6.8
   7.2
   5.0
   5.3
   6.9
   Hct
   27.4
   23.6
   31.5
   29.6
   29.5
   28.4
   28.9
   Plt
   39
   22
   16
   31
   22
   13
   17
   10
   Cr
   0.5
   0.3
   0.4
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   104
   77
   88
   111
   149
   103
   98
   Other labs: PT / PTT / INR:13.1/30.5/1.1, Differential-Neuts:10.0 %,
   Band:0.0 %, Lymph:89.0 %, Mono:1.0 %, Eos:0.0 %, Ca++:7.9 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.7 mg/dL
   Fluid analysis / Other labs: vanc 14.6
   Microbiology: sputum from [**3-5**] contaminated
   Assessment and Plan
   57 year old woman with relapsed CLL, fungal PNA and [**Hospital 13192**] transferred to
   [**Hospital Unit Name 1**] with hypoxic respiratory failure
   1. Hypoxic Respiratory Failure
   Not improving despite broad coverage. Her hypoxia is likely [**2-21**] shunt
   from large portions of consolidated lung. ID recommends stopping vanc,
   azithro and considering stopping cefepime as she has known pathogens,
   repeat additional cultures negative and while she is neutropenic, she
   is not febrile.  They recommended continuing bactrim and ambisome.
   Continued concern for embolic event though LENI
s negative and echo
   negative for R-sided strain, and severely thrombocytopenic.
   - stopped vanc and azithro
   - bactrim switched to PO to reduce volume
   - continue Ambisome, cefepime
   - repeat sputum culture
   - continue albuterol and ipratropium nebs
   2. Tachycardia
   Sinus tachycardia is most likely [**2-21**] hypoxia.
   When oxygen sat (black line) is up, heart rate (red line) is down:
   [image004.gif]
   And spikes in heart rate correspond to drops in sats
   [image006.gif]
   -- she is asymptomatic so it is okay to not treat this sinus
   tachycardia
   -- could consider fluid challenge to see if it responds to a small
   bolus as there may be also an element of hypovolemia
   3.  Thrombocytopenia: patient with persistent thrombocytopenia [**2-21**]
   chemo requiring frequent platelet transfusions. Platelets 10 this am.
   -- check pm CBC and transfuse for platelets<10 or signs of bleeding
   4. Neutropenia: Pt has had persistent neutropenia requiring
   - neutropenic precautions
   - continue neupogen
   5. Anemia: Stable, w/ neg DIC labs.
   6. Refractory CLL: Patient has had a prior allo SCT with relapse of her
   disease, most recently treated with bendamustine and rituximab [**12-28**].
   Does not desire further treatment
   - continue budesonide for GI GVHD,
   - holding acyclovir for prophylaxis as pt low risk
   7. GERD: Continue home omeprazole
   ICU Care
   Lines:
   PICC Line - [**2130-3-3**] 05:52 PM
   Prophylaxis:
   DVT:  plts 10 so boots and heparin held
   Stress ulcer: PPI
   Communication:  with patient
   Code status: Full code
   Disposition : ICU
   Patient is critically ill.

2130-03-06 08:21:00 Physician Attending Progress Note
Chief Complaint:  hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Bactrim changed to PO to minimize IV intake
   Remains on 6L + 70% FM
   History obtained from Patient
   Allergies:  Morphine (Pruritis)
   Last dose of Antibiotics:
   Acyclovir - [**2130-3-4**] 06:00 AM
   Bactrim (SMX/TMP) - [**2130-3-5**] 06:00 PM
   Vancomycin - [**2130-3-5**] 08:00 PM
   Ambisome - [**2130-3-5**] 08:00 PM
   Cefipime - [**2130-3-6**] 02:00 AM
   Other ICU medications:
   Furosemide (Lasix) - [**2130-3-5**] 06:14 PM
   Other medications:
   Vancomycin
   Cefepime
   GCSF
   Calcium carbonate
   Atrovent
   Bactrim
   Ambisome
   Azithro
   Vitamin D
   Prilosec
   Tessalon perles
   Folate
   Mag oxide
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-6**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.7
   HR: 124 (113 - 154) bpm
   BP: 107/60(68) {96/59(66) - 124/77(86)} mmHg
   RR: 16 (15 - 32) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,542 mL
                                                                    267 mL
   PO:
                                                                    550 mL
             TF:
   IVF:
                                                                  2,992 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  3,550 mL
                                                                    300 mL
   Urine:
                                                                  3,550 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -8 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   Gen: NAD, appears slightly more rested c/w yesterday
   Neck: JVP flat
   Chest: rales B, with egophony at L base
   CV: tachy, regular, no mur murs
   Abd: soft + Bs
   Extr: no edema
   Labs / Radiology
   9.8 g/dL
   10 K/uL
   98 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   15 mg/dL
   94 mEq/L
   131 mEq/L
   28.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2130-3-1**]  05:22 PM
                             [**2130-3-2**]  07:30 AM
                             [**2130-3-3**]  05:59 AM
                             [**2130-3-3**]  04:59 PM
                             [**2130-3-4**]  03:42 AM
                             [**2130-3-4**]  05:00 PM
                             [**2130-3-5**]  03:40 AM
                             [**2130-3-6**]  04:35 AM
   WBC
   6.0
   5.3
   6.8
   7.2
   5.0
   5.3
   6.9
   Hct
   27.4
   23.6
   31.5
   29.6
   29.5
   28.4
   28.9
   Plt
   39
   22
   16
   31
   22
   13
   17
   10
   Cr
   0.5
   0.3
   0.4
   0.5
   0.5
   0.5
   0.5
   0.5
   Glucose
   104
   77
   88
   111
   149
   103
   98
   Other labs: PT / PTT / INR:13.1/30.5/1.1, ALT / AST:19/13, Alk Phos / T
   Bili:211/0.5, Differential-Neuts:10.0 %, Band:0.0 %, Lymph:89.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:432 ng/mL, Fibrinogen:642 mg/dL,
   Albumin:2.1 g/dL, LDH:243 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:4.7
   mg/dL
   Vanco: 14.6
   Micro:
   Sputum [**3-5**]: oral secretions, cx cancelled
   No new imaging
   Assessment and Plan
   57 year old woman with relapsed CLL, and now with polymicrobial, RSV,
   and likely fungal PNA, and persistent hypoxic respiratory failure
   1. Hypoxic Respiratory Failure:
   likely [**2-21**] persistent infectious process, previously thought also with
   a component of volume overload, but has appeared euvolemic on exam for
   the last two days and oxygenation has not improved with attempts at
   diuresis.  TTE with no evidence of RH strain, LENIs neg for clot.   ID
   recommended stopping vanco, but continued given lack of clinical
   improvement and persistent neutropenia.
   - continue Ambisome, bactrim, cefepime
   - d/c vanco and azithro
   - continue albuterol and ipratropium nebs
   - resend sputum culture
   - TBB even
   2. Thrombocytopenia:
   patient with persistent thrombocytopenia requiring frequent platelet
   transfusions. No signs of active bleeding.
   - continue to monitor, check PM CBC and transfuse for platelets<10 or
   signs of bleeding
   3 Neutropenia:
   Pt has had persistent neutropenia requiring multiple neupogen
   injections.
   - neutropenic precautions
   - continue neupogen
   4. Anemia:
   Stable x several days, w/ neg DIC labs. s/p 1 upRBC
   - daily Hcts
   5. Tachycardia: sinus tach, HRs increase in response to hypoxemia.
   Denies CP or palpitations.
   - Rx of hypoxemic resp distress/insufficiency as above
   6.  Refractory CLL:
   Patient has had a prior allo SCT with relapse of her disease, most
   recently treated with bendamustine and rituximab [**12-28**]. Further
   treatment on hold given pulmonary processes and infection
   - continue budesonide for GI GVHD, d/c acyclovir as recommended by ID
   6. GERD:
   Continue home omeprazole
   ICU Care
   Nutrition: neutropenic diet
   Glycemic Control:
   Lines:  PICC Line - [**2130-3-3**] 05:52 PM
   Prophylaxis:
   DVT: holding for thrombocytopenia
   Stress ulcer: PPI
   Communication: with patient
   Code status: Full code
   Disposition: ICU
   Total time spent:  35 min CCT
   ------ Protected Section ------
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 206**], MD
   on:[**2130-3-6**] 16:54 ------

2130-03-07 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-6**]
   - Discontinued azithro and vanc
   - Patient and family deciding code status (no change)
   - Throughout the day, patient was tachy and hypoxic to mid 80s on FiO2
   60%; she was changed increased to 100% by face mask.  Her sats improved
   to low-mid 90s though with small movements desated again.  Given ativan
   x1 iv for anxiety.
   - Plts 8, hct 28.5 (stable) received transfusion with rise of platelets
   to 45
   Allergies:
   Morphine
   Pruritis;
   Last dose of Antibiotics:
   Acyclovir - [**2130-3-4**] 06:00 AM
   Bactrim (SMX/TMP) - [**2130-3-5**] 06:00 PM
   Vancomycin - [**2130-3-6**] 08:49 AM
   Ambisome - [**2130-3-6**] 07:30 PM
   Cefipime - [**2130-3-7**] 02:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-7**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 136 (119 - 145) bpm
   BP: 109/62(71) {96/52(65) - 122/71(79)} mmHg
   RR: 19 (15 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,678 mL
                                                                    220 mL
   PO:
             TF:
   IVF:
                                                                  1,281 mL
                                                                    220 mL
   Blood products:
                                                                    397 mL
   Total out:
                                                                  1,850 mL
                                                                    500 mL
   Urine:
                                                                  1,850 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -172 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.48/39/71/30/5
   PaO2 / FiO2: 75
   Physical Examination
   GEN: Elderly woman with diffuse echymoses and petechiae in worsening
   respiratory distress with accessory muscle use, looks fatigued
   CV: Tachycaridic, no RMG
   PULM: Bilateral rhales and wheezes
   ABD: Soft, NTND, +BS
   EXT: No edema
   Labs / Radiology
   27 K/uL
   8.7 g/dL
   120 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.5 mEq/L
   16 mg/dL
   98 mEq/L
   135 mEq/L
   25.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2130-3-3**]  05:59 AM
                             [**2130-3-3**]  04:59 PM
                             [**2130-3-4**]  03:42 AM
                             [**2130-3-4**]  05:00 PM
                             [**2130-3-5**]  03:40 AM
                             [**2130-3-6**]  04:35 AM
                             [**2130-3-6**]  07:16 PM
                             [**2130-3-6**]  07:50 PM
                             [**2130-3-6**]  10:15 PM
                             [**2130-3-7**]  04:40 AM
   WBC
   6.8
   7.2
   5.0
   5.3
   6.9
   5.7
   4.2
   Hct
   31.5
   29.6
   29.5
   28.4
   28.9
   28.5
   25.2
   Plt
   16
   31
   22
   13
   17
   10
   8
   45
   27
   Cr
   0.4
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   30
   Glucose
   88
   111
   149
   103
   98
   120
   Other labs: PT / PTT / INR:13.1/30.5/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:247/0.6, Differential-Neuts:10.0 %, Band:0.0 %, Lymph:89.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:432 ng/mL, Fibrinogen:642 mg/dL,
   Albumin:2.1 g/dL, LDH:297 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
 HYPOXEMIA
 TACHYCARDIA, OTHER
 PNEUMONIA, OTHER
 PANCYTOPENIA
 LEUKEMIA, CHRONIC (CML, CLL, OTHER; CANCER, MALIGNANT NEOPLASM)
 IMPAIRED SKIN INTEGRITY
   57 year old woman with relapsed CLL, fungal PNA and [**Hospital 13192**] transferred to
   [**Hospital Unit Name 1**] with hypoxic respiratory failure.
   1. Hypoxic Respiratory Failure: Worsening respiratory failure, now on
   100% nonrebreather and still satting in mid 80s and looking fatigued.
   Likely due to accelerating worsening RSV or any other of the multiple
   organisms. Currently covered with cefepime, bactrim and ambisome.
   Continued concern for embolic event though LENI
s negative and echo
   negative for R-sided strain, and severely thrombocytopenic.  She has
   had little improvement w/ diuresis suggesting volume overload less
   likely contributing to her clinical picture, therefore will likely hold
   on further diuresis.
   - ABG
   - Intubation today volume control tidal volumes 6cc/kg
   - Probable bronch, if so, will send BAL for gram stain, and culture
   - Fentanyl and midazolam for sedation
   - Consider another dose of antibody to tx RSV, will d/w ID
   - Continue ambisome (for fungal infection), bactrim (for
   stenotrophomonas), and cefepime empirically
   - repeat sputum culture
   - continue albuterol and ipratropium nebs
   - Consider a-line
   2. Tachycardia: Patient remains with sinus tachycardia likely [**2-21**]
   hypoxia.  Also with element of anxiety.
   - Treat respiratory failure as outlined
   - Ativan prn
   3.  Thrombocytopenia: 8 last night, s/p transfusion. Persistent
   thrombocytopenia [**2-21**] chemo requiring frequent platelet transfusions.
   Pts 27 s/p transfusion.
   - Follow and transfuse for platelets<10 or signs of bleeding
   4. Neutropenia: Pt has had persistent neutropenia requiring
   - neutropenic precautions
   - continue neupogen
   5. Anemia: Stable, w/ neg DIC labs.
   6. Refractory CLL: Patient has had a prior allo SCT with relapse of her
   disease, most recently treated with bendamustine and rituximab [**12-28**].
   Does not desire further treatment
   - continue budesonide for GI GVHD, which is theoretically not
   systemically absorbed
   - holding acyclovir for prophylaxis as pt low risk
   7. GERD: Continue home omeprazole
   ICU Care
   Nutrition: NPO for intubation
   Glycemic Control:
   Lines:
   PICC Line - [**2130-3-3**] 05:52 PM
   Prophylaxis:
   DVT: Pneumaboots (not on because of echymosesis) will encourage use
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2130-03-07 10:16:00 Physician Attending Progress Note
Chief Complaint: hypoxemia, resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57F CLL s/p BMT/ relapse admitted with respiratory distress /
   hypoxemia in the setting of viral RSV / fungal / polymicrobial
   pneumonia.
   24 Hour Events:
   azithro and vanco d/c'd yesterday
   code status readdressed, pt remain full code.
   O2 requirements increased, desats with movement
   Allergies:
   Morphine
   Pruritis;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2130-3-5**] 06:00 PM
   Vancomycin - [**2130-3-6**] 08:49 AM
   Ambisome - [**2130-3-6**] 07:30 PM
   Cefipime - [**2130-3-7**] 09:45 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2130-3-7**] 06:08 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-7**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 133 (119 - 145) bpm
   BP: 99/61(71) {96/52(65) - 122/71(79)} mmHg
   RR: 21 (15 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,678 mL
                                                                    495 mL
   PO:
             TF:
   IVF:
                                                                  1,281 mL
                                                                    495 mL
   Blood products:
                                                                    397 mL
   Total out:
                                                                  1,850 mL
                                                                    500 mL
   Urine:
                                                                  1,850 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -172 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 93%
   ABG: 7.48/39/71/30/5
   PaO2 / FiO2: 75
   Physical Examination
   General Appearance: tachypneic with acc m use
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: 2+ pedal pulses
   Respiratory / Chest: diffuse rales, poor AM
   Skin:  warm, echymosis
   Neurologic: Responds to: awake and alert
   Labs / Radiology
   8.7 g/dL
   27 K/uL
   120 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.5 mEq/L
   16 mg/dL
   98 mEq/L
   135 mEq/L
   25.2 %
   4.2 K/uL
        [image002.jpg]
                             [**2130-3-3**]  05:59 AM
                             [**2130-3-3**]  04:59 PM
                             [**2130-3-4**]  03:42 AM
                             [**2130-3-4**]  05:00 PM
                             [**2130-3-5**]  03:40 AM
                             [**2130-3-6**]  04:35 AM
                             [**2130-3-6**]  07:16 PM
                             [**2130-3-6**]  07:50 PM
                             [**2130-3-6**]  10:15 PM
                             [**2130-3-7**]  04:40 AM
   WBC
   6.8
   7.2
   5.0
   5.3
   6.9
   5.7
   4.2
   Hct
   31.5
   29.6
   29.5
   28.4
   28.9
   28.5
   25.2
   Plt
   16
   31
   22
   13
   17
   10
   8
   45
   27
   Cr
   0.4
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   30
   Glucose
   88
   111
   149
   103
   98
   120
   Other labs: PT / PTT / INR:13.3/31.2/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:247/0.6, Differential-Neuts:10.0 %, Band:0.0 %, Lymph:89.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:432 ng/mL, Fibrinogen:642 mg/dL,
   Albumin:2.1 g/dL, LDH:297 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:4.5
   mg/dL
   Imaging: cxr with progressive b/l asd, increased sm eff/atelectasis and
   consolid at bb
   Microbiology: stenotroph BAL
   Assessment and Plan
   Active issues include--
    # Hypoxemia/resp distress
 Clinically declining now using acc muscle
   to breath. Evolving process on imaging c/w diffuse disease probable
   ARDS. We continue to cover for fungal/bacterial and viral pna.  She
   appears euvolemic on exam and oxygenation has not improved with
   attempted diuresis.  TTE with no evidence of RH strain, LENIs neg for
   clot.  No evidence of DAH despite thrombocytopenia.
   --Multiple code discussions--pt remains full code and we will move
   toward intubation, using ards net TVs
   - continue Ambisome, bactrim, cefepime (vanco and azithro stopped
   yesterday)
   - albuterol and ipratropium MDIs
   - resend sputum culture
   # Tachycardia
likely from resp distress.  Reassess post intubation,
   IVFs if hypotensive
   # Thrombocytopenia: persistent thrombocytopenia requiring frequent
   platelet transfusions. No signs of active bleeding.
   --continue to monitor, follow, transfuse for platelets<10 or signs of
   bleeding
   # Neutropenia:
   - neutropenic precautions
   - continue neupogen
   # Anemia:
   Stable x several days, w/ neg DIC labs.
   - trend
   # Refractory CLL:
   s/p BMT with relapse , most recently treated with bendamustine and
   rituximab [**12-28**]. Further treatment on hold given pulmonary processes
   and infection
   - continue budesonide for GI GVHD, d/c acyclovir as recommended by ID
   Remainder as per resident note
   ICU Care
   Nutrition:   NPO
   Nutrition: NPO given resp status
   Glycemic Control:
   Lines:
   PICC Line - [**2130-3-3**] 05:52 PM, place a-line.
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 70 minutes
   Patient is critically ill
   Addendum
   Met with pt
s family.  Family members do not agree with pt
s decision
   for intubation as feel pt would not want a prolonged course on vent.
   They feel her prognosis for recovery is grim and that comfort would be
   a more appropriate course.
   We discussed that pt was lucid and understood the option of
   transitioning toward aggressive comfort verses moving toward continued
   aggressive life supporting care w/ intubation and that she expressed
   understanding that she likely will not be able to wean from the
   ventilator and that she may decline further., Given pt
s expressed
   wished, at this time is seems quite premature to reverse her status.
   Family is in agreement that we continue current aggressive care for
   now.  We will update them regularly and reassess. Pt more tachycardic
   and hypotensive and likely will require vasopressor support.  If
   continued clinical decline, transitioning away from continued
   excalation would be resoanble and we will address this with family and
   onc team.  Oncology team also spoke with pt prior to intubation, with
   her family and has been updated as to her status and this family mtg.
   Additional crit care time spent in meeting and discussion 40 min
   Addendum
   Over course of the day pt with worsening hemodynamics.  Initially
   tachycardiac to 160s, ecg c/w  SVT.  No response to  vagal maneuvers or
   adenosine  Became increasingly hypotensive and getting aggressive
   IVFs.  On amio transiently
stopped in setting of worsening
   hypotension.  With fluids HR improved to ST in 110
s.  Placed on
   vasopressor support, with neo and levophed added.  Suspect she is very
   intravascularly dry, worsened by positive pressure and peep. We
   continue  to adjust vent settings for worsening resp acidosis despite
   stable to slightly improved oxygenation (now at peep 10, fio2 weaned to
   0.8).  She has significant dysynchrony on vent and we will try
   paralytic [**Doctor Last Name **] and increasing sedation.
   Additional crit care time spent in assessment and discussion: 70 min

2130-03-08 07:28:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: Cough, worsening chest CT
   Reason for MICU transfer: Hypoxia
   24 Hour Events:
 INVASIVE VENTILATION - START [**2130-3-7**] 11:23 AM
 ARTERIAL LINE - START [**2130-3-7**] 04:28 PM
 FEVER - 102.7
F - [**2130-3-7**] 12:00 PM
   -Pt with worsening hypoxemic respiratory failure, satting in low 80s on
   100% FiO2 on NRB
   -Pt intubated in the morning placed on AC
   -Restarted vancomycin per ID
   - Family meetings and with Dr. [**Last Name (STitle) 363**]: patient expressed desire to be
   intubated. After intubated, family wanted to terminally extubate
   -Family mtg today with Dr. [**Last Name (STitle) 363**] to reconvene and see how long this
   trial is going to go before we consider comfort measures
   -Pt was tachycardic to 160s sinus tach vs SVT, adenosine 6 ONCE, then
   12 ONCE no help
   - started on amio bolus, then started gtt then stopped when put on
   neosynephrine for hypotension, after which heart rate improved
   -Hypotension, got 500cc x 3, started neosynephrine, then levophed with
   good effect. Heart rate remained low 100s.
   -Post-intubation worsening PCO2, FiO2 decreased, RR went from 18 to 24,
   repeat ABG worse at 7.13/85/111, RR decreased pt more dysynchronous
   with ventilator, repeated CXR, improved with paralytics
   -OGT looked good placement
   -ID decided against redosing RSV antibodies
   -switched her back to PO bactrim on the following dose 2 DS tabs QID
   which is the tx dose equivalent
   -Pt became increasing acidotic and hypercarbic throughout the night. At
   first was dysyncrhonous with vent. After paralytics and fent/midaz
   improved but still acidotic. Switched vents because of suspected air
   leak with no effect. Started to increase RR with some success. No
   autopeeping even at rates of 28. Tried increasing to 34 to try to
   further improve acidosis.
   -Pt's pressure dropped to 70s SBP this AM on max pressors x 2, family
   called in, no improved
   -PLTs 5, repleted with 6 pack this AM
   Allergies:
   Morphine
   Pruritis;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2130-3-5**] 06:00 PM
   Cefipime - [**2130-3-7**] 09:45 AM
   Ambisome - [**2130-3-7**] 08:23 PM
   Vancomycin - [**2130-3-7**] 10:17 PM
   Meropenem - [**2130-3-8**] 12:33 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2130-3-7**] 12:10 PM
   Adenosine - [**2130-3-7**] 01:50 PM
   Vecuronium - [**2130-3-7**] 07:34 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2130-3-8**] 02:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-8**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.4
C (99.3
   HR: 125 (107 - 169) bpm
   BP: 73/49(59) {73/49(59) - 106/62(79)} mmHg
   RR: 34 (11 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  6,576 mL
                                                                  2,103 mL
   PO:
             TF:
   IVF:
                                                                  6,576 mL
                                                                  2,003 mL
   Blood products:
   Total out:
                                                                    845 mL
                                                                     10 mL
   Urine:
                                                                    845 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,731 mL
                                                                  2,093 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (370 - 420) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   SpO2: 94%
   ABG: 7.22/54/92.[**Numeric Identifier 132**]/25/-6
   Ve: 15 L/min
   PaO2 / FiO2: 133
   Physical Examination
   GEN: Intubated, sedated, looks more comfortable than yesterday
   CV: Tachycardic, no RMG
   PULM: CTAB anteriorly
   ABD: Soft, NTND, +BS
   EXT: No edema, multiple echymosesis and petechiae, a-line oozing
   Labs / Radiology
   5 K/uL
   9.5 g/dL
   161 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.8 mEq/L
   31 mg/dL
   103 mEq/L
   135 mEq/L
   29.2 %
   17.6 K/uL
        [image002.jpg]
                             [**2130-3-7**]  07:00 PM
                             [**2130-3-7**]  08:11 PM
                             [**2130-3-7**]  09:25 PM
                             [**2130-3-7**]  10:30 PM
                             [**2130-3-8**]  12:01 AM
                             [**2130-3-8**]  12:55 AM
                             [**2130-3-8**]  01:41 AM
                             [**2130-3-8**]  02:51 AM
                             [**2130-3-8**]  03:03 AM
                             [**2130-3-8**]  05:21 AM
   WBC
   17.6
   Hct
   29.2
   Plt
   5
   Cr
   1.5
   TCO2
   27
   26
   24
   25
   22
   23
   22
   26
   23
   Glucose
   161
   Other labs: PT / PTT / INR:13.7/36.6/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:247/0.6, Differential-Neuts:4.0 %, Band:0.0 %, Lymph:96.0 %,
   Mono:0.0 %, Eos:0.0 %, D-dimer:432 ng/mL, Fibrinogen:642 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:297 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:8.7 mg/dL
   Creatinine up from 0.6
   Imaging: CXR AP [**2130-3-8**] (prelim) Stable-minimally worrsened pulm
   opacities. No PTX.
   Microbiology: [**2130-3-7**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY INPATIENT - No organisms seen, cultures pending.
   [**2130-3-7**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2130-3-7**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE) BLOOD/FUNGAL
   CULTURE-PENDING; BLOOD/AFB CULTURE-PENDING INPATIENT
   [**2130-3-7**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2130-3-7**]  URINE URINE CULTURE-PENDING INPATIENT
   ECG: SVT vs sinus tach. Rate of 170.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
 TACHYCARDIA, OTHER
 PNEUMONIA, OTHER
 PANCYTOPENIA
 LEUKEMIA, CHRONIC (CML, CLL, OTHER; CANCER, MALIGNANT NEOPLASM)
 IMPAIRED SKIN INTEGRITY
   57 year old woman with relapsed CLL, fungal PNA and [**Hospital 13192**] transferred to
   [**Hospital Unit Name 1**] with hypoxic respiratory failure, now intubated and on two
   pressors.
   1. Hypoxic Respiratory Failure, ARDS:  PaO2 / FiO2: 133
   Now intubated. [**2-21**] worsening polymicrobial pulmonary infection in
   setting of immunocompromised status.
   - vanc, [**Last Name (un) 614**], (both empiric) bactrim (increased to treatment dose, for
   stenotrophomonas), ambisome (for fungal infection)
   - hold on bronch low platelets
   - Fentanyl and midazolam for sedation
   - repeat sputum culture
   - continue albuterol and ipratropium nebs
   - Continue current parameters while trying to wean FiO2
   - No SBT as pt is critically ill
   - Chlorhexadine, HOB for VAP PPX
   SEVERE SEPTIC SHOCK WITH MULTI-ORGAN SYSTEM FAILURE: Began after
   intubation, likely secondary to positive pressure support. Worsening
   pulmonary infection leading to sepsis also likely co-contributor.
   -2 pressors, s/p fluid boluses (6L NS)
   - continue IVF prn
   -Family meeting with Dr. [**Last Name (STitle) 363**] to discuss outcomes and options
   RESPIRATORY and metabolic ACIDOSIS: pH 7.22 after increasing RR and
   adding 2 amps of bicarb (RR and Vt affects PCO2 and pH, whereas FiO2
   and PEEP affect PO2). Metabolic acidosis, non-gap, Likely [**2-21**] sepsis vs
   renal failure
   - correct pH if <7.2 for pressor pharmacology
   2. Tachycardia: SVT vs sinus tach overnight improved with amio gtt.
   Likely triggers were hypoxia and fevers. Remained stable with IV
   fluids.
   - Treat respiratory failure as outlined
   3.  Thrombocytopenia: 5 this am s/p transfusion. Persistent
   thrombocytopenia [**2-21**] chemo requiring frequent platelet transfusions.
   DIC in ddx however INR not severely elevated.
   - Follow and transfuse for platelets<10 or signs of bleeding
   4. Neutropenia: Pt has had persistent neutropenia [**2-21**] chemo.
   - neutropenic precautions
   - continue neupogen
   5. Anemia: Stable, w/ neg DIC labs.
   6. Refractory CLL: Patient has had a prior allo SCT with relapse of her
   disease, most recently treated with bendamustine and rituximab [**12-28**].
   Does not desire further treatment
   - continue budesonide for GI GVHD, which is theoretically not
   systemically absorbed
   - holding acyclovir for prophylaxis as pt low risk
   7. GERD: Continue home omeprazole
    ICU Care
   Nutrition: NPO for intubation
   Glycemic Control:
   Lines:
   PICC Line - [**2130-3-3**] 05:52
   ARTERIAL LINE [**2130-3-7**]
   Prophylaxis:
   DVT: Pneumaboots (not on because of echymosesis) will encourage use
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 57F CLL s/p BMT / relapse admitted with
   respiratory distress / hypoxemia in the setting of viral (RSV) / fungal
   / polymicrobial pneumonia. Intubated yesterday, now with MODS.
   Progressive tachycardia and hypotension. Remains on 2 vasopressors
   (levo/neo). Worsening resp acidosis and hypercarbia on ACV, some
   improvement with paralytic, adjustment of MV/RR on vent.  Antibx
   broadened.
   Tm 39.3  BP 90/60  HR 120   RR 34 94% ACV 420/34/10/0.70  -->
   7.22/54/93
   WD woman, now intubated, edematous, crackles, d BS at bases. RRR s1s2.
   Soft +BS. edema.
   Labs notable for WBC 18K, plt 5 HCT 29,, K+ 4.8, Cr 1.5.
   CXR with diffuse b ASD
   MODS with poor prognosis.  Agree with plan to manage respiratory
   failure with continued broadened treatment directed at viral (RSV) /
   fungal / bacterial pneumonia with ambisome, bactrim, vanco, and [**Last Name (un) 614**]
   and vanco, s/p pavilizumab with ID following. We f/u pending cxs. We
   continue ACV support, weaning FiO2 for paO2 > 60. Her resp acidosis has
   improved with current vent setting with higher MV and improved vent
   synchrony at current level of sedation. We will tolerate permissive
   hypercapnea.  She is now in shock, most likely septic with underlying
   preload dependence and worsening in setting of positive pressure
   ventilation/peep and sedation. She has been adequately fluid resuc and
   remains on 2 vasopressors to maintain MAPS > 60.  She is newly in ARF,
   from hypoperfusion/hypotension, becoming anuric.  We will renally dose
   meds.No acute indication for HD, though given her prognosis,  HD is not
   an appropriate option. Her tachycardia has improved with sedation and
   resp support, though she remains in ST. For thrombocytopenia - we
   will transfuse if <10 or bleeding.  We will follow DIC labs, hct
   remains stable. In terms of malignancy /  BMT - off immunosupression,
   and we continue GVH rx with PO budesonide. For neutropenia - continue
   GCSF.  We continue to communicate and update family and offer support,
   as we honor pt's wishes at this time for aggressive care.  Prognosis
   for meaningful recovery is grim.  Picc, a-line, boots, PPI. Remainder
   of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   Addendum:
   I met with pt's family and updated them as to her current condition.
   Family expresses wishes to transition to aggressive comfort and I have
   explained that at this time we are honoring pt's expressed wishes for
   aggressive care.  Despite this she continues to decline, now in MODS.
   I have contact[**Name (NI) **] Dr. [**Last Name (STitle) 363**], who will also speak with our team and pt's
   family. Clergy support this am.  Family declined SW support.  After
   speaking and updating Dr. [**Last Name (STitle) 363**], we met together with pt's family.
   All questions were answered.  Family expressing frustration, as they
   feel the inevitable is being prolonged.  Family reassured that pt is
   comfortable.  They understand our ethical obligation to honor pt's
   wishes, which we have been doing.  At this time, given MODS and poor
   prognosis, we will not further escalate care, but will continue with
   the current level of support and reassess.  Would consider ethics
   consult, as family may find this helpful.
   Additional critical care time spent in family meetings and clinical
   discussions: 90 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2130-3-8**] 05:10 PM ------

2130-03-09 07:32:00 Physician Resident Progress Note
Chief Complaint: MODS
   24 Hour Events:
   -family meeting with Dr. [**Last Name (STitle) 363**]: no escalation but will allow her to
   "declare herself" over next day
   - Fio2 decreased to 60. Still maxed on 2 pressors. Acidemic,
   hyperkalemic. anuric.
   - ID recommended dosing changes for new renal failure
   - transfused platelets again
   History obtained from Medical records
   Allergies:
   Morphine
   Pruritis;
   Last dose of Antibiotics:
   Cefipime - [**2130-3-7**] 09:45 AM
   Vancomycin - [**2130-3-8**] 09:00 AM
   Ambisome - [**2130-3-8**] 10:38 PM
   Meropenem - [**2130-3-9**] 06:14 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Phenylephrine - 5 mcg/Kg/min
   Fentanyl - 150 mcg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2130-3-9**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 134 (110 - 136) bpm
   BP: 73/52(63) {71/50(61) - 114/71(89)} mmHg
   RR: 34 (30 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
           Total In:
                                                                  4,289 mL
                                                                  1,442 mL
   PO:
           TF:
   IVF:
                                                                  3,669 mL
                                                                  1,143 mL
   Blood products:
                                                                    400 mL
                                                                    299 mL
   Total out:
                                                                     52 mL
                                                                      0 mL
   Urine:
                                                                     52 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,238 mL
                                                                  1,442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 34
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   SpO2: 96%
   ABG: 7.17/59/102/19/-7
   Ve: 14.1 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: neck fullness
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, No(t) Cyanosis, No(t) Clubbing, feet are cool
   Skin:  Cool, purpura, oozing from line sites
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   <5 K/uL
   8.5 g/dL
   108 mg/dL
   2.8 mg/dL
   19 mEq/L
   6.1 mEq/L
   54 mg/dL
   100 mEq/L
   130 mEq/L
   26.0 %
   11.4 K/uL
        [image002.jpg]
                             [**2130-3-8**]  01:41 AM
                             [**2130-3-8**]  02:51 AM
                             [**2130-3-8**]  03:03 AM
                             [**2130-3-8**]  05:21 AM
                             [**2130-3-8**]  09:41 AM
                             [**2130-3-8**]  10:11 AM
                             [**2130-3-8**]  05:25 PM
                             [**2130-3-8**]  05:38 PM
                             [**2130-3-9**]  03:31 AM
                             [**2130-3-9**]  03:58 AM
   WBC
   17.6
   12.3
   11.4
   Hct
   29.2
   27.3
   26.0
   Plt
   5
   56
   18
   <5
   Cr
   1.5
   2.2
   2.8
   TCO2
   22
   26
   23
   25
   23
   23
   Glucose
   161
   117
   108
   Other labs: PT / PTT / INR:14.8/40.5/1.3, ALT / AST:14/18, Alk Phos / T
   Bili:247/0.6, Ca++:6.7 mg/dL, Mg++:2.1 mg/dL, PO4:9.7 mg/dL
   Imaging: CXR read from yesterday: no overall change, perhaps interval
   imrpovement in appearance of apices, may be related to treatment of
   pulmonary edema
   Microbiology: no new culture growth
   Assessment and Plan
   57 year old woman with relapsed CLL, fungal PNA and [**Hospital 13192**] transferred to
   [**Hospital Unit Name 1**] with hypoxic respiratory failure, now intubated, anuric, acidemic
   and maxed on two pressors.
   1. Multi organ dysfunction
   No escalation. Supportive care.
   - continue fluids and blood products only as long as they are not doing
   further harm
   2. ARDS
   PaO2 / FiO2: 170
   Intubated. Now in MODS.
   - care according to goals as above
   - continue  vanc, [**Last Name (un) 614**], (both empiric) bactrim (increased to treatment
   dose, for stenotrophomonas), ambisome (for fungal infection)
   - abx dosing changed for renal failure
   - f/u pending cultures
   - Chlorhexadine, HOB for VAP PPX
   3. Acidemia, ph 7.17
   [**2-21**] primary respiratory acidosis and concominant metabolic acidosis
   - bicarb not indicated as anuric and fluid load may be harmful and
   without clear benefit to bicarb, also not in line with goals of care
   4. Tachycardia:
   Hypoxia improved. Tachycardia persists. Likely [**2-21**] sepsis,
   electrolytes.
   5. Electrolyte abnormalities
   - anuric, septic
   - CVVH not in line with goals of care
   6.  Thrombocytopenia:
   Transfusion dependent
   - Follow and transfuse for platelets<10 or signs of bleeding, may need
   to reevaluate as goals of care discussion ongoing
   7. Neutropenia: Pt has had persistent neutropenia [**2-21**] chemo.
   - neutropenic precautions
   - continue neupogen
   8. Anemia: Has been stable but now trending down. Likely [**2-21**] dilution
   vs bleeding.
   9. Refractory CLL:
   - continue budesonide for GI GVHD
   - holding acyclovir for prophylaxis as pt low risk
   10. GERD: Continue home omeprazole
   11. Goals of care
   -ongoing discussion
   ICU Care
   Nutrition: NPO for intubation
   Glycemic Control:
   Lines:
   PICC Line - [**2130-3-3**] 05:52
   ARTERIAL LINE [**2130-3-7**]
   Prophylaxis:
   DVT: no platelets
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR, no escalation
   Disposition: ICU

2130-03-10 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.0
F - [**2130-3-9**] 01:00 PM
   - In the morning: patient was hypotensive and so went up on pressors
   range, and ordered iv bolus w/ some improvement in bp 70s/50s
   - D/c'd ambisone/bactrim given renal function
   - Received kayaxelate for hyperk
   - Over the course of the day, patient developed worsening acidemia;
   renal function with electrolyte abnormality (persistent hyperK and
   hyperPhos)
   - After a long discussion w/ ethics, heme/onc, and family it was
   acknowledge that the patient's prognosis was very grim.  The consensus
   remained to not escalate care.  The family was okay with keeping
   patient ventillated, but agreed with withdrawing pressor support and
   stopping futile/harmful acts such as more ivfs.  Ventilator rates were
   reduced in the morning.
   Allergies:
   Morphine
   Pruritis;
   Last dose of Antibiotics:
   Cefipime - [**2130-3-7**] 09:45 AM
   Vancomycin - [**2130-3-8**] 09:00 AM
   Ambisome - [**2130-3-8**] 10:38 PM
   Meropenem - [**2130-3-9**] 06:14 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-10**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 38.9
C (102
   Tcurrent: 35.7
C (96.3
   HR: 124 (115 - 145) bpm
   BP: 35/29(31) {35/28(31) - 83/54(66)} mmHg
   RR: 26 (23 - 34) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  3,177 mL
                                                                     59 mL
   PO:
             TF:
   IVF:
                                                                  2,578 mL
                                                                     59 mL
   Blood products:
                                                                    299 mL
   Total out:
                                                                      5 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,172 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 26 cmH2O
   SpO2: 92%
   ABG: 7.11/62/77/ 16/-10
   Ve: 11.3 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   <5 K/uL
   8.5 g/dL
   127
   3.4
    16
    5.7
   66
   98
   127
   26.0 %
   11.4 K/uL
        [image002.jpg]
                             [**2130-3-8**]  03:03 AM
                             [**2130-3-8**]  05:21 AM
                             [**2130-3-8**]  09:41 AM
                             [**2130-3-8**]  10:11 AM
                             [**2130-3-8**]  05:25 PM
                             [**2130-3-8**]  05:38 PM
                             [**2130-3-9**]  03:31 AM
                             [**2130-3-9**]  03:58 AM
                             [**2130-3-9**]  05:34 PM
                             [**2130-3-9**]  05:46 PM
   WBC
   12.3
   11.4
   Hct
   27.3
   26.0
   Plt
   56
   18
   <5
   Cr
   2.2
   2.8
   3.4
   TCO2
   26
   23
   25
   23
   23
   21
   Glucose
   117
   108
   127
   Other labs: PT / PTT / INR:14.8/40.5/1.3, ALT / AST:14/18, Alk Phos / T
   Bili:247/0.6, Differential-Neuts:4.0 %, Band:0.0 %, Lymph:96.0 %,
   Mono:0.0 %, Eos:0.0 %, D-dimer:432 ng/mL, Fibrinogen:642 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:297 IU/L, Ca++:6.0 mg/dL,
   Mg++:2.0, PO4:9.7
   Microbiology: [**2130-3-7**] 12:46 pm SPUTUM      Source: Endotracheal.
                               **FINAL REPORT [**2130-3-9**]**
      GRAM STAIN (Final [**2130-3-7**]):
         [**11-13**] PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2130-3-9**]):
         SPARSE GROWTH Commensal Respiratory Flora.
         GRAM NEGATIVE ROD(S).    RARE GROWTH.  OF TWO COLONIAL
   MORPHOLOGIES
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 GRIEVING
 OLIGURIA/ANURIA
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ACIDOSIS, MIXED
 THROMBOCYTOPENIA, ACUTE
 NEUTROPENIA
 ANEMIA, HEMOLYTIC
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOXEMIA
 TACHYCARDIA, OTHER
 PNEUMONIA, OTHER
 PANCYTOPENIA
 LEUKEMIA, CHRONIC (CML, CLL, OTHER; CANCER, MALIGNANT NEOPLASM)
 IMPAIRED SKIN INTEGRITY
   57 year old woman with relapsed CLL, fungal PNA and [**Hospital 13192**] transferred to
   [**Hospital Unit Name 1**] with hypoxic respiratory failure, now intubated, anuric, acidemic
   and maxed on two pressors.
   #. Multi organ dysfunction: Patient with worsening acidemia,
   electrolyte abnormalities, anuria, ARDs.  Given her extensive
   underlying bone marrow suppression, superimposed infections,
   respiratory failure and now renal failure, patient
s prognosis remains
   very grim. After long family discussions, decision was made to not
   escalate care and to withdraw pressor support as this would not be
   inline with patient
s wishes.  As such dialysis would not be in line
   with patient
s wishes.  Cont supportive care at this time.
   - D/w family regarding weaning vent, terminal extubation and comfort
   measures
   #. Tachycardia: Multifactorial: sepsis, electrolytes abnormalities
   #. Electrolyte abnormalities: See above; secondary to renal failure.
   CVVH not in line w/ goals
   #.  Anemia/Thrombocytopenia: Transfusion dependent, but further
   transfusions likely more harmful in patient already volume overloaded
   and anuric.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2130-3-3**] 05:52 PM
   Arterial Line - [**2130-3-7**] 04:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: